US07723524B2
Ethyl 3-acetoxymethyl-2,4,5-trifluorobenzoate
Ethyl 3-methyl-2,4,5-trifluorobenzoate (61.0 g, 279 mmol) was dissolved in benzene (1,000 mL). N-Bromosuccinimide (76.2 g, 428 mmol) and 2,2′-azobisisobutyronitrile (100 mg) were added thereto, and the mixture was refluxed for 3 days. The reaction mixture was left to cool, and the solid matter that precipitated was separated through filtration and washed with benzene. Subsequently, the filtrate and the wash solution were combined. The mixture was concentrated under reduced pressure. The residue was subjected to silica gel chromatography (eluent; n-hexane:ethyl acetate=20:1 to 10:1), to thereby yield a mixture of the starting material and ethyl 3-bromomethyl-2,4,5-trifluorobenzoate (about 1:1, 57.8 g). The mixture was dissolved in DMF (290 mL), and sodium acetate (22.1 g, 269 mmol) was added thereto, followed by stirring for 30 minutes at 90° C. The reaction mixture was left to cool, and ethyl acetate (1,000 mL) was added thereto. The mixture was washed with water (500 mL×2) and saturated brine (500 mL), and dried with sodium sulfate anhydrate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel chromatography (eluent; n-hexane:ethyl acetate=20:1), whereby the starting material was recovered in an amount of 27.4 g (45%) and the title compound was obtained as a pale yellow oily substance (26.5 g, 34%).

reactant | Ethyl 3-methyl-2,4,5-trifluorobenzoate | 279 mmol, 61.0 g | CC=1C(=C(C(=O)OCC)C=C(C1F)F)F | C10H9F3O2
reactant | N-Bromosuccinimide | 428 mmol, 76.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 100 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | ethyl 3-bromomethyl-2,4,5-trifluorobenzoate | 57.8 g | BrCC=1C(=C(C(=O)OCC)C=C(C1F)F)F | C10H8BrF3O2
reactant | sodium acetate | 269 mmol, 22.1 g | C(C)(=O)[O-].[Na+]
solvent | benzene | 1,000 mL | C1=CC=CC=C1 | C6H6
solvent | DMF | 290 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 1,000 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-acetoxymethyl-2,4,5-trifluorobenzoate | C(C)(=O)OCC=1C(=C(C(=O)OCC)C=C(C1F)F)F | C12H11F3O4
